US07435753B2
(1-fluorovinyl)(methyl)diphenylsilane
To a solution of lithium wire (2.08 g, 300 mmol) in dry tetrahydrofuran (150 ml) was added methyldiphenylsilyl chloride (15.8 ml, 75 mmol) and a catalytic amount of iodine. The reaction mixture was sonicated for 40 min and then stirred overnight at room temperature. The reaction mixture was cooled to −78° C. and 1,1-difluoroethylene (approx. 225 mmol) was passed through the mixture for 30 min. The mixture was stirred at −78° C. for 2 h and then warmed to room temperature.

reactant | lithium | 300 mmol, 2.08 g | [Li] | Li
reactant | methyldiphenylsilyl chloride | 75 mmol, 15.8 ml | C[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C13H13ClSi
reactant | iodine | II | I2
reactant | 1,1-difluoroethylene | approx. 225 mmol | FC(=C)F | C2H2F2
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | (1-fluorovinyl)(methyl)diphenylsilane | FC(=C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C | C15H15FSi
